US07001917B2
Step 1. 2-[4-(3-tert-butyl-5-methyl-1H-pyrazol-1-yl)phenyl]ethanol
The title compound was prepared according to the procedure described in step 1 of Example 63 from propynylmagnesium bromide, pivaloyl chloride and 2-(4-hydrazinophenyl)ethanol hydrochloride: MS (EI) m/z 334 [M]+, 1H-NMR (CDCl3) δ 7.39-7.29 (4H, m), 6.05 (1H, s), 3.85 (2H, m), 2.90 (2H, m), 2.30 (3H, s), 1.60 (1H, br.s), 1.33 (9H, s).

reactant | propynylmagnesium bromide | C(#CC)[Mg]Br
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
product | 2-[4-(3-tert-butyl-5-methyl-1H-pyrazol-1-yl)phenyl]ethanol | C(C)(C)(C)C1=NN(C(=C1)C)C1=CC=C(C=C1)CCO | C16H22N2O
